2121-02-08 12:26:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: hypertension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Codeine
   pruritis;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2121-2-7**] 11:59 PM
   Infusions:
   Labetalol - 2 mg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-2-8**] 02:00 AM
   Morphine Sulfate - [**2121-2-8**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-2-8**] 12:23 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**23**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.9
C (96.6
   HR: 73 (69 - 87) bpm
   BP: 157/65(99) {149/65(97) - 188/80(122)} mmHg
   RR: 14 (11 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78 kg (admission): 71.8 kg
   Height: 60 Inch
             Total In:
                                                                  2,630 mL
                                                                    326 mL
   PO:
                                                                    990 mL
                                                                     30 mL
   TF:
   IVF:
                                                                  1,640 mL
                                                                    296 mL
   Blood products:
   Total out:
                                                                  2,965 mL
                                                                  1,070 mL
   Urine:
                                                                  2,965 mL
                                                                  1,070 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -335 mL
                                                                   -744 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.38/66/115/38/11
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Bowel sounds present
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   221 K/uL
   99 mg/dL
   0.4 mg/dL
   38 mEq/L
   4.1 mEq/L
   6 mg/dL
   97 mEq/L
   139 mEq/L
   25.1 %
   5.4 K/uL
        [image002.jpg]
                             [**2121-2-7**]  02:44 AM
                             [**2121-2-7**]  08:12 AM
                             [**2121-2-7**]  03:37 PM
                             [**2121-2-7**]  03:46 PM
                             [**2121-2-7**]  08:34 PM
                             [**2121-2-7**]  10:00 PM
                             [**2121-2-8**]  03:00 AM
                             [**2121-2-8**]  03:12 AM
                             [**2121-2-8**]  03:33 AM
                             [**2121-2-8**]  09:43 AM
   WBC
   5.6
   5.4
   Hct
   27.7
   25.1
   Plt
   208
   221
   Cr
   0.5
   0.4
   TCO2
   40
   36
   38
   40
   42
   41
   Glucose
   102
   180
   159
   81
   104
   104
   99
   Other labs: PT / PTT / INR:12.0/25.1/1.0, CK / CKMB /
   Troponin-T:134/6/<0.01, Lactic Acid:0.7 mmol/L, Albumin:3.4 g/dL,
   Ca++:9.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   This is a 65 yo woman being transferred to MICU service for ongoing
   management of hypertension.  She is s/p coiling of R MCA aneurysm
   earlier this admission and has remained in the ICU on a labetolol gtt
   to maintain SBPs < 160.  Significant data include a persistent
   respiratory acidosis with a pCO2 in 50.  Torso CT yesterday with mod
   b/l pulmonary effusions and some evidence of volume overload.

Hypertension:
   -labetolol gtt in addition to ACE-I, ca channel blocker, and HCTZ
   -start transition to PO so can transition to the floor
   -clarify what target BP should be (no bleed prior to coiling)
Respiratory Acidosis:
   -looks like is chronic in nature
   -? underlying COPD
Cognition
   -AAOx3, clear
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2121-2-3**] 10:57 PM
   Arterial Line - [**2121-2-4**] 12:30 AM
   22 Gauge - [**2121-2-4**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2121-02-09 07:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Sp Coiling of [**Hospital 11229**] Transfered to medicine for
   blood pressure control.
   24 Hour Events:
   - Neuro Surgery: Blood Pressure <160. Noting to do in regards to
   infarct at this time. Neurosurgery will follow for now.
   - Foley Catheter left in place - pt had a few very small clots. Could
   be DC'd in AM.
   - Daughter thought she looked a little more confused, asking about
   brother. Neuro exam stable no focal deficits, AOx3.
   - PICC Line Placed.
   Allergies:
   Codeine
   pruritis;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2121-2-7**] 11:59 PM
   Infusions:
   Labetalol - 2 mg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-2-9**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-2-9**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**23**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 77 (66 - 85) bpm
   BP: 166/64(98) {136/51(80) - 186/80(127)} mmHg
   RR: 13 (10 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76 kg (admission): 71.8 kg
   Height: 60 Inch
             Total In:
                                                                  1,100 mL
                                                                    352 mL
   PO:
                                                                    330 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    770 mL
                                                                    292 mL
   Blood products:
   Total out:
                                                                  3,080 mL
                                                                    910 mL
   Urine:
                                                                  3,080 mL
                                                                    910 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,980 mL
                                                                   -558 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 98%
   ABG: 7.44/58/77/36/12
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese, somnolent
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : b/l bases, Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed, somnolent
   Labs / Radiology
   226 K/uL
   7.7 g/dL
   99 mg/dL
   0.5 mg/dL
   36 mEq/L
   3.7 mEq/L
   8 mg/dL
   96 mEq/L
   138 mEq/L
   23.9 %
   4.9 K/uL
        [image002.jpg]
                             [**2121-2-7**]  10:00 PM
                             [**2121-2-8**]  03:00 AM
                             [**2121-2-8**]  03:12 AM
                             [**2121-2-8**]  03:33 AM
                             [**2121-2-8**]  09:43 AM
                             [**2121-2-8**]  01:42 PM
                             [**2121-2-8**]  10:13 PM
                             [**2121-2-9**]  03:01 AM
                             [**2121-2-9**]  03:16 AM
                             [**2121-2-9**]  04:43 AM
   WBC
   5.4
   4.9
   Hct
   25.1
   23.9
   Plt
   221
   226
   Cr
   0.4
   0.5
   TCO2
   42
   41
   41
   41
   40
   41
   Glucose
   104
   104
   99
   99
   Other labs: PT / PTT / INR:12.0/25.1/1.0, CK / CKMB /
   Troponin-T:134/6/<0.01, Lactic Acid:0.7 mmol/L, Albumin:3.4 g/dL,
   Ca++:9.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Imaging: Chest Xray: Pending
   Microbiology: CSF Cx: No Growth
   Urine Cx: No Growth
   Assessment and Plan
   Assessment and Plan: 65 y/o F PMH HTN with right ICA aneurysm s/p
   coiling by IR on [**2121-2-4**]. Patient is being transferred from SICU to
   MICU for blood pressure management.
   .
   # Right ICA aneurysm: s/p coiling [**2121-2-4**], repeat head CTA no bleed.
   - Neurosurgery to follow.
   - Goal SBP 140-160. Clarify with Neurosurg how long patient needs
   strict blood pressure control.
   .
   # Hypertension: Patient has prior history. No current chest pain or
   headache to suggest emergency. Currently on multiple medications with
   labetolol drip and remains poorly controlled.
   - Increase lisinopril to 40 mg qd
   - Continue Metoprolol Tartrate 75 mg TID uptitrate further if needed
   - Continue Felodipine 10 mg qd (maximum dose 20 mg qd)
   - Continue HCTZ 25 mg qd
   - Continue Labetalol drip overnight, attempt to wean in morning. Start
   with increasing lisinopril, consider increasing metoprolol further or
   switching to po labetalol if needed.
   - Discontinue Metoprolol IV prn
   - Goal SBP < 160. Clarify with Neurosurg how long patient needs strict
   blood pressure control
   .
   # Right parietal infarct: New, most likely secondary to coiling
   procedure. Patient has prior history of R pontine/caudate stroke with
   residual left sided weakness.
   - Continue ASA, plavix
   - Consult neurology in am. Confirm blood pressure control (whether with
   acute infarct BP needs to be > 140).
   .
   # Acid-Base status: Patient was respiratory acidosis (hypercarbia) with
   metabolic compensation. Most likely has underlying COPD, questionable
   tobacco use. CT chest demonstrates effusion but no significant evidence
   of COPD.
   - Continue to monitor
   - Place on BiPap as needed
   - NEBs
   - Consider outpatient PFTs
   .
   # Anemia: Slow trend down 30->25. Now stable 27.7. CTA head and torso
   no bleed or hemorrhage.
   - Active T&S
   - Guaiac stool
   .
   # Thyroid Disorder: Low TSH and borderline T3/T4 consistent with sick
   euthyroid.
   - Discontinue leovthyroxine
   .
   # Urinary tract infection: Urine culture no growth.
   - Discontinue Ciprofloxacin.
   - Monitor and re-send if febrile or WBC elevated
   .
   # Hypercholesterolemia: patient not on outpatient statin
   .
   # Depression: not on outpatient treatment
   .
   # Pain: Continue morphine IV prn
   .
   # FEN: No IVF, replete electrolytes, regular diet
   # Prophylaxis: Subcutaneous heparin, famotidine
   # Access: peripherals
   # Communication: Patient's daughter at [**Telephone/Fax (1) 11216**]
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition: Regular diet
   Lines:
   Arterial Line - [**2121-2-4**] 12:30 AM
   PICC Line - [**2121-2-8**] 07:09 PM
   Prophylaxis:
   DVT:  Subcutaneous Heparin
   Stress ulcer: Famotidine
   Communication:  Comments:
   Code status: Full Code
   Disposition: Wean Labetolol gtt and transfer to floor

2121-02-09 11:09:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: hypertension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2121-2-8**] 07:09 PM
clots in Foley cath
                                History obtained from [**Hospital 19**] Medical records
   Allergies:
   Codeine
   pruritis;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2121-2-7**] 11:59 PM
   Infusions:
   Labetalol - 2 mg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-2-9**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-2-9**] 11:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**23**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.3
C (97.4
   HR: 84 (66 - 90) bpm
   BP: 157/62(93) {136/51(80) - 169/73(127)} mmHg
   RR: 17 (10 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76 kg (admission): 71.8 kg
   Height: 60 Inch
             Total In:
                                                                  1,100 mL
                                                                    729 mL
   PO:
                                                                    330 mL
                                                                    300 mL
   TF:
   IVF:
                                                                    770 mL
                                                                    429 mL
   Blood products:
   Total out:
                                                                  3,080 mL
                                                                  2,230 mL
   Urine:
                                                                  3,080 mL
                                                                  2,230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,980 mL
                                                                 -1,501 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.44/58/77/36/12
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   7.7 g/dL
   226 K/uL
   99 mg/dL
   0.5 mg/dL
   36 mEq/L
   3.7 mEq/L
   8 mg/dL
   96 mEq/L
   138 mEq/L
   23.9 %
   4.9 K/uL
        [image002.jpg]
                             [**2121-2-7**]  10:00 PM
                             [**2121-2-8**]  03:00 AM
                             [**2121-2-8**]  03:12 AM
                             [**2121-2-8**]  03:33 AM
                             [**2121-2-8**]  09:43 AM
                             [**2121-2-8**]  01:42 PM
                             [**2121-2-8**]  10:13 PM
                             [**2121-2-9**]  03:01 AM
                             [**2121-2-9**]  03:16 AM
                             [**2121-2-9**]  04:43 AM
   WBC
   5.4
   4.9
   Hct
   25.1
   23.9
   Plt
   221
   226
   Cr
   0.4
   0.5
   TCO2
   42
   41
   41
   41
   40
   41
   Glucose
   104
   104
   99
   99
   Other labs: PT / PTT / INR:12.0/25.1/1.0, CK / CKMB /
   Troponin-T:134/6/<0.01, Lactic Acid:0.7 mmol/L, Albumin:3.4 g/dL,
   Ca++:9.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   65F transferred to MICU for ongoing management of hypertension.  She is
   s/p coiling of R MCA aneurysm earlier this admission and has remained
   in the ICU on a labetolol gtt to maintain SBPs < 160.  Significant data
   include a persistent respiratory acidosis with a pCO2 in 50.  Torso CT
   yesterday with mod b/l pulmonary effusions and some evidence of volume
   overload.

Hypertension:
   -labetolol gtt in addition to ACE-I, ca channel blocker, and HCTZ
   -start transition to PO so can transition to the floor
   -clarify what target BP should be (no bleed prior to coiling)
Respiratory Acidosis:
   -looks like is chronic in nature
   -? underlying COPD
Cognition
   -AAOx3, clear
   Remainder of issues per ICU team.
 HYPERTENSION, BENIGN
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 CHEST PAIN
 ANEURYSM, OTHER
 HEADACHE
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2121-2-4**] 12:30 AM
   PICC Line - [**2121-2-8**] 07:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent: